US06174884B1
6-(4-Bromo-benzyl)-1-(4-decyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
10 mg (0.034 mmol) of 5-amino-3-ethyl-1-(4-decyl)-1H-pyrazole-4-carboxamide and 20 mg (0.087 mmol) of methyl 4-bromophenylacetate are refluxed for 6 hours in 0.3 ml of a 0.5M ethanolic sodium ethoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 7 mg (67%) of a solid, Rf=0.69 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-ethyl-1-(4-decyl)-1H-pyrazole-4-carboxamide | 0.034 mmol, 10 mg | NC1=C(C(=NN1C(CCC)CCCCCC)CC)C(=O)N | C16H30N4O
reactant | methyl 4-bromophenylacetate | 0.087 mmol, 20 mg | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | sodium ethoxide | 0.5M | [O-]CC.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(4-Bromo-benzyl)-1-(4-decyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 7 mg, 67% | BrC1=CC=C(CC=2NC(C3=C(N2)N(N=C3CC)C(CCC)CCCCCC)=O)C=C1 | C24H33BrN4O
